Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
tramadol / hydrocodone
 
Attending: ___.
 
Chief Complaint:
Hyponatremia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ yo woman hx of HTN, spinal stenosis and a 
remote hx of DCIS, and stromal tumor s/p resection (___), who 
presented to ___ with malaise, epigastric pain, nausea, 
diarrhea, and confusion. 

She was reportedly brought into the ___ because she was 
not acting like herself. She reported about ___ days of nausea 
and diarrhea as well as urinary frequency. CT head without mass 
or evidence of ICP. CXR without acute process. At ___, labs 
notable for Na of 117. Given no MICU beds, she was transferred 
to the ___ for MICU admission. 

In the ED, initial vitals:  97.9 96 130/65 18 98% RA 
- Labs were notable for Na 119, BUN 11, Cre 0.6, WBC 4.5, H/H 
10.5/31.5 with normal differential 
- CT abd/pelvis demonstrated cholelithiasis without evidence 
cholecystitis. Otherwise no acute findings.
 
On arrival to the MICU, her vitals were ___ 89 141/100 18 99%. 
Speaking with her son as an ___ that patient reports 
overall feeling better than yesterday. Feels fatigued and 
reports some abdominal cramping. Denies further headaches or 
nausea. No fevers/chills. 
 
Past Medical History:
Remote hx of breast DCIS
Stromal gastric mass s/p resection ___
HTN
Spinal stenosis
 
Social History:
___
Family History:
Family hx of diabetes
 
Physical Exam:
ADMISSION EXAM:
Vitals:  ___ 89 141/100 18 99%RA
GENERAL: Well-appearing female in NAD; pleasant, conversational
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN:  No rashes or lesions
NEURO:  Grossly intact; per son is not confused; moving all 
extremities with purpose

DISCHARGE exam:
unchanged, awake alert pleasant
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:54AM BLOOD WBC-4.5 RBC-4.11 Hgb-10.5* Hct-31.5* 
MCV-77* MCH-25.5* MCHC-33.3 RDW-12.7 RDWSD-35.0* Plt ___
___ 01:54AM BLOOD Neuts-69.2 ___ Monos-10.6 
Eos-0.4* Baso-0.2 Im ___ AbsNeut-3.12 AbsLymp-0.87* 
AbsMono-0.48 AbsEos-0.02* AbsBaso-0.01
___ 08:18AM BLOOD ___ PTT-42.4* ___
___ 01:54AM BLOOD Glucose-92 UreaN-11 Creat-0.6 Na-119* 
K-4.9 Cl-86* HCO3-23 AnGap-15
___ 08:18AM BLOOD Glucose-105* UreaN-9 Creat-0.6 Na-123* 
K-5.2* Cl-89* HCO3-24 AnGap-15
___ 12:26PM BLOOD Na-123* K-5.2* Cl-90*
___ 01:54AM BLOOD Calcium-9.4 Phos-2.9 Mg-1.___ year old woman with of hypertension, spinal stenosis and a 
remote history of DCIS, and stromal tumor s/p resection (___), 
who presented to ___ with malaise, epigastric pain, nausea, 
diarrhea, and confusion

# Hyponatremia: appeared euvolemic though was possibly mildly 
hypovolemic on initial presentation. Urine lytes could represent 
SIADH, though not definitive.  She worsened with IV fluids, so 
fluid restriction was employed. Given diet history, likely low 
solute intake component as well.  According to the patient's son 
she has had hyponatremia in the past in the setting of 
dehydration. Patient reports some loose stools at home before 
coming in.  She has mildly elevated calcium, ? malignancy given 
weight loss, anorexia, but CT chest did not reveal any 
abnormality. Patient's NA improved with salt tabs, and she was 
instructed to continue to take these and eat regularly on 
discharge. 

# Diarrhea: Patient reports loose stools for the past ___ days 
with about 3 bowel movements yesterday. Associated with 
epigastric discomfort, which has now resolved. CT abdomen 
without acute findings or colitis.  These symptoms did not recur 
following admission to ___.

# Hypertension: At home on lisinopril 40mg po daily and 
amlodipine 5mg po daily.  These were held initially during 
admission and then restarted on d/c as pt was discharged on salt 
tablets.

# GERD: Continued home omeprazole 20mg po BID

# Glaucoma: Continued latanoprost

TRANSITIONS OF CARE
-------------------
# Follow-up: with pcp ___ ___
# Na check on ___
# Code status: full code

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Omeprazole 20 mg PO BID 
4. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
5. Magnesium Oxide 400 mg PO DAILY 

 
Discharge Medications:
1. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
2. Omeprazole 20 mg PO BID 
3. walker 1 rolling walker (pediatric)  miscellaneous ASDIR 
Length of need: 13 months
Prognosis: Good
Diagnosis: R26.2
___ ___ 
RX *walker    Disp #*1 Each Refills:*0
4. Amlodipine 5 mg PO DAILY 
5. Lisinopril 40 mg PO DAILY 
6. Magnesium Oxide 400 mg PO DAILY 
7. Sodium Chloride 1 gm PO TID 
RX *sodium chloride 1 gram 1 tablet(s) by mouth three times a 
day Disp #*90 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Hyponatremia
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure to care for you during your recent stay at 
___.  You came for further evaluation of low sodium levels.  
This improved with restricting IV fluids and starting salt 
tablets.
 
Followup Instructions:
___